US08389508B2
To a solution of 3-bromo-2-ethylbenzaldehyde (2.66 g, 12.48 mmol) in Dichloromethane (DCM) (30 mL) were added methyl 3-azetidinecarboxylate (1.987 g, 13.11 mmol) and sodium acetate (1.536 g, 18.73 mmol). The mixture was stirred for 30 min at rt then sodium triacetoxyborohydride (3.97 g, 18.73 mmol) was added to above solution. The obtained mixture was stirred for an hour at rt. The solvent was removed under the reduced pressure, water (30 mL) was added to the above residue and the mixture was adjusted to pH value around 3 with HCl (1.0 N) then extracted with EtOAc (10 mL). Acidic phase was adjusted to pH value around 8 with NaOH (1.0 N) solution then extracted with EtOAc (30 mL). The organic phase was dried over anhydrous sodium sulfate, concentrated under the reduced pressure and dried in vacuum to give methyl 1-(3-bromo-2-ethylbenzyl)azetidine-3-carboxylate (3.04 g) as pale yellow oil

reactant | 3-bromo-2-ethylbenzaldehyde | 12.48 mmol, 2.66 g | BrC=1C(=C(C=O)C=CC1)CC | C9H9BrO
reactant | methyl 3-azetidinecarboxylate | 13.11 mmol, 1.987 g | N1CC(C1)C(=O)OC | C5H9NO2
reactant | sodium acetate | 18.73 mmol, 1.536 g | C(C)(=O)[O-].[Na+]
reactant | sodium triacetoxyborohydride | 18.73 mmol, 3.97 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | Dichloromethane | 30 mL | ClCCl | CH2Cl2
product | methyl 1-(3-bromo-2-ethylbenzyl)azetidine-3-carboxylate | 3.04 g | BrC=1C(=C(CN2CC(C2)C(=O)OC)C=CC1)CC | C14H18BrNO2
